US08633207B2
To a mixture of 8-bromo-2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline (300 mg, 0.75 mmol), tris(dibenzylideneacetone)dipalladium (69 mg, 0.075 mmol), 1,1′-bis(diphenylphosphino)ferrocene (49 mg, 0.088 mmol), and zinc cyanide (110 mg, 0.93 mmol) was added DMF (6 mL). The reaction flask was evacuated and flushed with argon (3×) and then the mixture was heated at 90° C. overnight. The resulting mixture was partitioned between EtOAc and water and the organic layer was washed with 2N NH4OH (3×) and brine (1×), dried over sodium sulfate, and concentrated under reduced pressure onto Celite. The mixture was purified by silica gel flash chromatography eluting with 0-50% EtOAc/hexanes to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline-8-carbonitrile (168 mg, 64%). LC-MS (ESI) m/z 347 (M+H)+.

reactant | 8-bromo-2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline | 0.75 mmol, 300 mg | BrC=1C=CC=C2C(=NC(=NC12)C(C1=NC=C(C=C1)F)(F)F)SC | C15H9BrF3N3S
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.075 mmol, 69 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.088 mmol, 49 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc cyanide | 0.93 mmol, 110 mg | [C-]#N.[Zn+2].[C-]#N
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline-8-carbonitrile | 168 mg, 64% | FC(C1=NC2=C(C=CC=C2C(=N1)SC)C#N)(C1=NC=C(C=C1)F)F | C16H9F3N4S
